US08106070B2
Palladium tetrakis(triphenylphosphine) (16 mg, 0.01 mmol) was added to a degassed, ambient temperature solution of benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}methylcarbamate (72 mg, 0.14 mmol), 2-bromo-5-fluoropyridine (25 mg, 0.14 mmol) and hexamethylditin (46 mg, 0.14 mmol) in 1,4-dioxane (5 mL). After stirring at reflux overnight, the reaction mixture was diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded benzyl {1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methylcarbamate.

reactant | benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}methylcarbamate | 0.14 mmol, 72 mg | BrC1=CC=C(C=C1)CC(C=1N(C(=CN1)CC(CC)(C)C)C)N(C(OCC1=CC=CC=C1)=O)C | C27H34BrN3O2
reactant | 2-bromo-5-fluoropyridine | 0.14 mmol, 25 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 0.14 mmol, 46 mg | C[Sn](C)C.C[Sn](C)C
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium tetrakis(triphenylphosphine) | 0.01 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | benzyl {1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methylcarbamate | CC(CC1=CN=C(N1C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)N(C(OCC1=CC=CC=C1)=O)C)(CC)C | C32H37FN4O2
